US05001157
N-[[[2-(Aminocarbonyl)phenyl]amino]thioxomethyl]-4-methylbenzamide
To a stirred mixture of 5.4 g of 2-aminobenzamide and 200 ml of ether was added dropwise, a solution of 7.5 g of 4-methylbenzoyl isothiocyanate in 100 ml of ether over 30 minutes. After 48 hours, the solid was collected, giving 12.2 g of the desired product as grey crystals, mp 208°-210° C. (dec.).

reactant | 2-aminobenzamide | 5.4 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-methylbenzoyl isothiocyanate | 7.5 g | CC1=CC=C(C(=O)N=C=S)C=C1 | C9H7NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-[[[2-(Aminocarbonyl)phenyl]amino]thioxomethyl]-4-methylbenzamide | 12.2 g | NC(=O)C1=C(C=CC=C1)NC(NC(C1=CC=C(C=C1)C)=O)=S | C16H15N3O2S
